US07153854B2
To a solution of 5-[4-(2-chloro-4-pyridinyl)-7-ethyl-2-methylpyrrolo[1,2-b]pyridazin-3-yl]-5-oxopentanoic acid (47 mg) in EtOH (1 mL) was added sodium borohydride (5 mg) in an ice-water bath under N2. After 10 min, the mixture was stirred at ambient temperature. After 1 h, another odium borohydride (5 mg) was added. After 2 h, the reaction mixture was partitioned between CHCl3 and H2O. The aqueous layer was extracted with CHCl3 twice. The combined organic layer was dried over MgSO4 and evaporated in vacuo. The residue was purified by p-TLC (CHCl3-MeOH=10-1) to give 5-[4-(2-chloro-4-pyridinyl)-7-ethyl-2-methylpyrrolo[1,2-b]pyridazin-3-yl]-5-hydroxypentanoic acid as yellow amorphous (28 mg).

reactant | 5-[4-(2-chloro-4-pyridinyl)-7-ethyl-2-methylpyrrolo[1,2-b]pyridazin-3-yl]-5-oxopentanoic acid | 47 mg | ClC1=NC=CC(=C1)C=1C=2N(N=C(C1C(CCCC(=O)O)=O)C)C(=CC2)CC | C20H20ClN3O3
reactant | sodium borohydride | 5 mg | [BH4-].[Na+]
reactant | borohydride | 5 mg | [BH4-]
solvent | EtOH | 1 mL | CCO | C2H6O
product | 5-[4-(2-chloro-4-pyridinyl)-7-ethyl-2-methylpyrrolo[1,2-b]pyridazin-3-yl]-5-hydroxypentanoic acid | ClC1=NC=CC(=C1)C=1C=2N(N=C(C1C(CCCC(=O)O)O)C)C(=CC2)CC | C20H22ClN3O3
